US04835322
Still other approaches to the preparation of 4,4'-dibromodiphenyl ether involve condensation reactions. Thus, when bromobenzenes were heated with iodyl sulfate and then with concentrated, hydrochloric acid, R2I+Cl- was formed which, on coupling with para-bromophenol in aqueous solution containing sodium hydroxide, gave 4,4'-dibromodiphenyl ether. (Nilsson, C. A., et al., Chemosphere 1977, 6(9), 599-607; C.A. 88: 22273k). Another low yield synthesis of 4,4'-dibromodiphenyl ether utilizes coupling of para-dibromobenzene with phenol. Thus, heating para-dibromobenzene with phenol and potassium hydroxide in the presence of freshly precipitated copper at 180° C. with continuous water removal gave 27 percent yield of para-dibromo diphenyl ether, with somewhat higher yields being obtained at higher temperature. (Bakhvalov, et al., Izv. Akad Nauk SSSR, Ser.Khim. 1970, (1), 143-5;, C.A. 72: 110930x). German Offen No. 2,242,519 describes the synthesis of 4,4'-dibromodiphenyl ether by a soventless Ullmann reaction of halobenzenes with alkali metal phenolates in the presence of cuprous or cupric oxide at 130°-65° C.

reactant | para-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium hydroxide | [OH-].[Na+]
product | 4,4'-dibromodiphenyl ether | C1=CC(=CC=C1OC2=CC=C(C=C2)Br)Br | C12H8Br2O
